US04328223
10.3 g (0.05 mol) of 2-chloro-3a,4,5,6-tetrahydroperimidine and 7.1 g (0.05 mol) of 4-chloro-benzylamine in 100 ml of ethanol are heated to 80° C. for 1 hour. After cooling, the crystals which have precipitated are filtered off and purified by dissolving in hot ethanol and precipitating with water. 2-(4-Chlorobenzylamino)-3a,4,5,6-tetrahydro-perimidine hydrochloride is obtained. Yield: 10 g (57.5% of theory) of melting point 257°-258° C.

reactant | 2-chloro-3a,4,5,6-tetrahydroperimidine | 0.05 mol, 10.3 g | ClC=1NC=2C=CC=C3CCCC(N1)C23 | C11H11ClN2
reactant | 4-chloro-benzylamine | 0.05 mol, 7.1 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-Chlorobenzylamino)-3a,4,5,6-tetrahydro-perimidine hydrochloride | Cl.ClC1=CC=C(CNC=2NC=3C=CC=C4CCCC(N2)C34)C=C1 | InChI=1S/C18H18ClN3.ClH/c19-14-9-7-12(8-10-14)11-20-18-21-15-5-1-3-13-4-2-6-16(22-18)17(13)15;/h1,3,5,7-10,16H,2,4,6,11H2,(H2,20,21,22);1H
